US05266720
PREPARATION OF LABELLED HMMA
The resulting compound was deprotected, by treatment with 1M sodium hydroxide (500 microlitre) for 30 minutes at room temperature in the dark. The reaction mixture was taken to pH 3 with 2M hydrochloric acid (200 microlitre) and the 1M citric acid (1.5 ml). Volatiles were removed in vacuo, the residue taken up in methanol, and inorganics filtered to leave a clear yellow solution. This was subjected to TLC (eluent dichloromethane-methanol-acetic acid 75:25:1) to give the product as one major band Rf 0.10, which was eluted with methanol and stored at -20° C. in the dark.

reactant | sodium hydroxide | 1M, 500 microlitre | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 200 microlitre | Cl | ClH
reactant | citric acid | 1M, 1.5 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
product | HMMA | COC1=C(C=CC(=C1)C(C(=O)O)O)O | C9H10O5
